US07060844B2
3-{5-[(2,4-Dimethoxy-benzyl)-(2-morpholin-4-yl-ethyl)-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one
A mixture of 3-[5-(2,4-dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (100 mg, 0.24 mmol), 4-(2-iodo-ethyl)-morpholine (90 mg, 0.37 mmol), N,N-diisopropylethylamine (63 mg, 0.49 mmol) and silver triflate (75 mg (0.29 mmol) in 1,4-dioxane (5 ml) was heated at 85° C. under nitrogen for 16 hours. Purification of the mixture by silica gel chromatography, eluted with a gradient of MeOH in CHCl3 led to 3-{5-[(2,4-dimethoxy-benzyl)-(2-morpholin-4-yl-ethyl)-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one as a yellow solid (40 mg, 31%).

reactant | 3-[5-(2,4-dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 0.24 mmol, 100 mg | COC1=C(CNC=2C=C3COC(C3=CC2)=C2C(NC3=CC=CC=C23)=O)C=CC(=C1)OC | C25H22N2O4
reactant | 4-(2-iodo-ethyl)-morpholine | 0.37 mmol, 90 mg | ICCN1CCOCC1 | C6H12INO
reactant | N,N-diisopropylethylamine | 0.49 mmol, 63 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | silver triflate | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | 3-{5-[(2,4-Dimethoxy-benzyl)-(2-morpholin-4-yl-ethyl)-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one | COC1=C(CN(C=2C=C3COC(C3=CC2)=C2C(NC3=CC=CC=C23)=O)CCN2CCOCC2)C=CC(=C1)OC | C31H33N3O5
